US06469021B1
Preparation of N-{[9-(2,5-Dichlorobenzyl)-9H-β-carbolin-3-yl]methyl}-5-methyl-3-isoxazolecarboxamide
A solution of 5-methylisoxazole-3-carbonyl chloride in DCE (0.25M) was treated with a solution of [9-(2,5-dichlorobenzyl)-9H-β-carbolin-3-yl]methylamine in DME (0.25M, 1 equiv), followed by a solution of triethylamine in DME (1.0M, 1 equiv). The mixture was agitated, and allowed to stand overnight. The solvent was evaporated and the residue purified by preparative HPLC. 1H NMR (300 MHz, DMSO-d6) δ9.5 (br t, 1H), 9.40 (s, 1H), 8.74 (s, 1H), 8.60 (d,J=7.8 Hz, 1H) 7.78 (m, 1H), 7.66-7.60 (m, overlap, 2H), 7.50-7.41 (m, overlap, 2H), 6.69 (s, 1H), 6.65 (s, 1H), 5.97 (s, 1H), 4.96 (d, J=5.4Hz, 2H), 2.49 (s, overlap with DMSO peak). A peak at 13.7 ppm in the 13C NMR spectrum is consistent with the methyl group, which presumably overlaps with the solvent in the 1H NMR spectrum. Monoisotopic mass calcd for C24H18Cl2N4O2: 464.1, (M+H) found 465.4.

reactant | 5-methylisoxazole-3-carbonyl chloride | CC1=CC(=NO1)C(=O)Cl | C5H4ClNO2
reactant | [9-(2,5-dichlorobenzyl)-9H-β-carbolin-3-yl]methylamine | ClC1=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)CN)C=C(C=C1)Cl | C19H15Cl2N3
reactant | DME | 0.25M, 1 equiv | COCCOC | C4H10O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | DME | 1.0M, 1 equiv | COCCOC | C4H10O2
solvent | DCE | 0.25M | ClCCCl | C2H4Cl2
product | N-{[9-(2,5-Dichlorobenzyl)-9H-β-carbolin-3-yl]methyl}-5-methyl-3-isoxazolecarboxamide | ClC1=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)CNC(=O)C2=NOC(=C2)C)C=C(C=C1)Cl | C24H18Cl2N4O2
